US06855710B2
(Z)-3-[1-(4-methoxyphenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone
Prepared analogously to Example 77 from 1-acetyl-3-(1-methoxy-1-phenyl-methylidene)-5-nitro-2-indolinone and 4-methoxyaniline in dichloromethane and methanolic ammonia.

reactant | 1-acetyl-3-(1-methoxy-1-phenyl-methylidene)-5-nitro-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=CC=C1)OC)=O | C18H14N2O5
reactant | 4-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ammonia | N | H3N
product | (Z)-3-[1-(4-methoxyphenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone | COC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C22H17N3O4
